US07026478B2
A solution of n-hexylmagnesium bromide (2M in Et2O, 3.3 mL) is added to a solution of 6-chloro-2-(trifluoromethanesulfonyloxy)pyridine (435 mg, 1.66 mmol) in THF (7 mL) and NMP (0.5 mL) at 0° C. The reaction mixture turns black and GC inspection indicates quantitative conversion of the substrate after 5 min reacion time. For work-up, the mixture is diluted with Et2O (20 mL) and quenched with brine (20 mL), the aqueous phase is repeatedly extracted with Et2O, the combined organic layers are dried over Na2SO4 and evaporated, and the residue is purified by flash chromatography (hexanes/ethyl acetate, 15/1) to afford 2,6-di(hexyl)pyridine as a colorless liquid (301 mg, 73%). 1H NMR (300 MHz, CDCl3): δ 7.47 (t, J=7.7 Hz, 1H), 6.93 (d, J=7.7 Hz, 2H), 2.70 (t, J=7.8 Hz, 4H), 1.68 (m, 4H), 1.32 (m, 12H), 0.88 (t, J=6.5 Hz, 6H). 13C NMR (75 MHz, CDCl3): δ 161.9, 136.2, 119.5, 38.5, 31.8, 30.0, 29.1, 22.7, 13.9. IR: 3060, 2955, 2926, 2871, 2856, 1590, 1577, 1456, 1378, 750 cm−1. MS m/z (rel. intensity) 247 (5, [M+]), 218 (7), 204 (22), 190 (23), 177 (100), 134 (12), 120 (44), 107 (15). HR-MS (C17H29N) calcd. 247.229999; found 247.229778.

reactant | n-hexylmagnesium bromide | 2M, 3.3 mL | C(CCCCC)[Mg]Br
reactant | 6-chloro-2-(trifluoromethanesulfonyloxy)pyridine | 1.66 mmol, 435 mg | ClC1=CC=CC(=N1)OS(=O)(=O)C(F)(F)F | C6H3ClF3NO3S
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 2,6-di(hexyl)pyridine | 301 mg, 73% | C(CCCCC)C1=NC(=CC=C1)CCCCCC | C17H29N
